US08293735B2
2-(2-Chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-2,7-diaza-spiro[3.5]nonane-7-carboxylic acid methyl ester
Prepared according to the method used in the preparation of 2-chloro-6-(7-methanesulfonyl-2,7-diaza-spiro[3.5]non-2-ylmethyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidine using methyl chloroformate in place of methanesulfonyl chloride. The title compound was obtained as a colourless oil (20 mg, 28%).

reactant | 2-chloro-6-(7-methanesulfonyl-2,7-diaza-spiro[3.5]non-2-ylmethyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidine | ClC=1N=C(C2=C(N1)C=C(S2)CN2CC1(C2)CCN(CC1)S(=O)(=O)C)N1CCOCC1 | C19H26ClN5O3S2
reactant | methyl chloroformate | ClC(=O)OC | C2H3ClO2
product | 2-(2-Chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-2,7-diaza-spiro[3.5]nonane-7-carboxylic acid methyl ester | COC(=O)N1CCC2(CN(C2)CC2=CC=3N=C(N=C(C3S2)N2CCOCC2)Cl)CC1 | C20H26ClN5O3S
